US08119636B2
1-[2-(1-Hydroxy-2-methyl-propyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one.
Substituting isobutyraldehyde for acetaldehyde in Step 2. MP=148-150 C, (M+H)+=276. 7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazine-2-carboxylic acid isopropylamide Substituting carbon dioxide for acetaldehyde in Step 2. Then following general procedures described in these Examples, using isopropylamine and continuing with Step 3. MP=206-208 C, (M+H)+=289. 1-(2-Acetyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one. The product of Step 3 was treated with Dess-Martin periodinane, following general procedures described in these Examples. MP=221-223 C, (M+H)+=246.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazine-2-carboxylic acid isopropylamide | C(C)(C)NC(=O)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C15H20N4O2
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | 1-(2-Acetyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | C(C)(=O)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C13H15N3O2
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 1-[2-(1-Hydroxy-2-methyl-propyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | OC(C(C)C)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C15H21N3O2
